US09062032B2
To a mixture of 43.9 g of methyl 4-[2-(4-aminophenyl)ethyl]benzoate, 22.3 g of cyanoacetic acid, and 150 mL of DMF was added 49.5 g of WSC.hydrochloride under ice cooling. After the reaction mixture was stirred for 24 hours at room temperature, 450 mL of water was added thereto at room temperature, followed by stirring for 30 minutes at room temperature. Thereafter, the precipitate was collected by filtration, thereby obtaining 54.2 g of methyl 4-(2-{4-[(cyanoacetyl)amino]phenyl}ethyl)benzoate.

reactant | methyl 4-[2-(4-aminophenyl)ethyl]benzoate | 43.9 g | NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C16H17NO2
reactant | cyanoacetic acid | 22.3 g | C(#N)CC(=O)O | C3H3NO2
reactant | WSC | 49.5 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | hydrochloride | Cl | ClH
solvent | water | 450 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | methyl 4-(2-{4-[(cyanoacetyl)amino]phenyl}ethyl)benzoate | 54.2 g | C(#N)CC(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C19H18N2O3
